US07858632B2
To a solution of 3,4-dihydroxy benzaldehyde (15.48 g, 112 mmol) in 500 ml AcOH was added bromine (6.1 ml, 118 mmol) drop-wise in 50 ml AcOH over 10 min. After 4 h the mixture was poured into cold H2O. The precipitate was filtered, washed with cold H2O and dried in vacuum to give 3-bromo-4,5-dihydroxy-benzaldehyde (11.64 g, 48%) as a grey solid.

reactant | 3,4-dihydroxy benzaldehyde | 112 mmol, 15.48 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | bromine | 118 mmol, 6.1 ml | BrBr | Br2
reactant | H2O | O | H2O
solvent | AcOH | 500 ml | CC(=O)O | C2H4O2
solvent | AcOH | 50 ml | CC(=O)O | C2H4O2
product | 3-bromo-4,5-dihydroxy-benzaldehyde | 11.64 g, 48% | BrC=1C=C(C=O)C=C(C1O)O | C7H5BrO3
